US04956359
3-(3,4-Dichlorophenoxy)-N-(2-propenyl)-1-azetidinecarboxamide
A stirred solution of 5.6 g (0.02 mole) of 3-(3,4-dichlorophenoxy)-1-azetidinecarbonyl chloride in 20 ml of tetrahydrofuran was treated with 3.0 g (0.04 mole) of propenylamine, and stirring was continued for 18 hr. The reaction mixture was diluted with 200 ml of ice water, and the solid which formed was collected by filtration, yielding 7.1 g of crude wet product. Recrystallization from benzene/ligroin yielded 3.95 g (65.6%) of white crystals, m.p. 98°-99° C.

reactant | 3-(3,4-dichlorophenoxy)-1-azetidinecarbonyl chloride | 0.02 mole, 5.6 g | ClC=1C=C(OC2CN(C2)C(=O)Cl)C=CC1Cl | C10H8Cl3NO2
reactant | propenylamine | 0.04 mole, 3.0 g | C(=CC)N | C3H7N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-(3,4-Dichlorophenoxy)-N-(2-propenyl)-1-azetidinecarboxamide | 3.95 g, 65.6% | ClC=1C=C(OC2CN(C2)C(=O)NCC=C)C=CC1Cl | C13H14Cl2N2O2
